* Subcircuit l603
.subckt l603 net-_d1-pad1_ net-_d2-pad1_ net-_d5-pad2_ net-_d6-pad2_ gnd com net-_d10-pad2_ net-_d13-pad2_ net-_d11-pad2_ net-_d15-pad2_ net-_d12-pad2_ net-_d17-pad2_ net-_d14-pad1_ net-_d21-pad2_ net-_d16-pad1_ net-_d23-pad2_ net-_d18-pad1_ net-_d24-pad2_ 
* d:\fossee\esim\library\subcircuitlibrary\l603\l603.cir
.include NPN.lib
.include D.lib
r20  net-_d24-pad2_ net-_q15-pad2_ 2.7k
q15 net-_d18-pad1_ net-_q15-pad2_ net-_q15-pad3_ Q2N2222
r23  net-_q15-pad2_ net-_q15-pad3_ 7.2k
r24  net-_q15-pad3_ gnd 3k
q16 net-_d18-pad1_ net-_q15-pad3_ gnd Q2N2222
d18 net-_d18-pad1_ com 1N4148
d24 gnd net-_d24-pad2_ 1N4148
d22 gnd net-_d18-pad1_ 1N4148
r1  net-_d5-pad2_ net-_q1-pad2_ 2.7k
q1 net-_d1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
r3  net-_q1-pad2_ net-_q1-pad3_ 7.2k
r4  net-_q1-pad3_ gnd 3k
q3 net-_d1-pad1_ net-_q1-pad3_ gnd Q2N2222
d1 net-_d1-pad1_ com 1N4148
d5 gnd net-_d5-pad2_ 1N4148
d3 gnd net-_d1-pad1_ 1N4148
r7  net-_d13-pad2_ net-_q5-pad2_ 2.7k
q5 net-_d10-pad2_ net-_q5-pad2_ net-_q5-pad3_ Q2N2222
r10  net-_q5-pad2_ net-_q5-pad3_ 7.2k
r11  net-_q5-pad3_ gnd 3k
q6 net-_d10-pad2_ net-_q5-pad3_ gnd Q2N2222
d7 net-_d10-pad2_ com 1N4148
d13 gnd net-_d13-pad2_ 1N4148
d10 gnd net-_d10-pad2_ 1N4148
r8  net-_d15-pad2_ net-_q7-pad2_ 2.7k
q7 net-_d11-pad2_ net-_q7-pad2_ net-_q7-pad3_ Q2N2222
r12  net-_q7-pad2_ net-_q7-pad3_ 7.2k
r13  net-_q7-pad3_ gnd 3k
q9 net-_d11-pad2_ net-_q7-pad3_ gnd Q2N2222
d8 net-_d11-pad2_ com 1N4148
d15 gnd net-_d15-pad2_ 1N4148
d11 gnd net-_d11-pad2_ 1N4148
r17  net-_d23-pad2_ net-_q13-pad2_ 2.7k
q13 net-_d16-pad1_ net-_q13-pad2_ net-_q13-pad3_ Q2N2222
r21  net-_q13-pad2_ net-_q13-pad3_ 7.2k
r22  net-_q13-pad3_ gnd 3k
q14 net-_d16-pad1_ net-_q13-pad3_ gnd Q2N2222
d16 net-_d16-pad1_ com 1N4148
d23 gnd net-_d23-pad2_ 1N4148
d20 gnd net-_d16-pad1_ 1N4148
r2  net-_d6-pad2_ net-_q2-pad2_ 2.7k
q2 net-_d2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
r5  net-_q2-pad2_ net-_q2-pad3_ 7.2k
r6  net-_q2-pad3_ gnd 3k
q4 net-_d2-pad1_ net-_q2-pad3_ gnd Q2N2222
d2 net-_d2-pad1_ com 1N4148
d6 gnd net-_d6-pad2_ 1N4148
d4 gnd net-_d2-pad1_ 1N4148
r9  net-_d17-pad2_ net-_q8-pad2_ 2.7k
q8 net-_d12-pad2_ net-_q8-pad2_ net-_q10-pad2_ Q2N2222
r14  net-_q8-pad2_ net-_q10-pad2_ 7.2k
r15  net-_q10-pad2_ gnd 3k
q10 net-_d12-pad2_ net-_q10-pad2_ gnd Q2N2222
d9 net-_d12-pad2_ com 1N4148
d17 gnd net-_d17-pad2_ 1N4148
d12 gnd net-_d12-pad2_ 1N4148
r16  net-_d21-pad2_ net-_q11-pad2_ 2.7k
q11 net-_d14-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
r18  net-_q11-pad2_ net-_q11-pad3_ 7.2k
r19  net-_q11-pad3_ gnd 3k
q12 net-_d14-pad1_ net-_q11-pad3_ gnd Q2N2222
d14 net-_d14-pad1_ com 1N4148
d21 gnd net-_d21-pad2_ 1N4148
d19 gnd net-_d14-pad1_ 1N4148
* Control Statements

.ends l603