* Subcircuit LM431
.subckt LM431 net-_q1-pad2_ net-_c2-pad1_ net-_q2-pad3_ 
* c:\fossee\esim\library\subcircuitlibrary\lm431\lm431.cir
.include NPN.lib
.include PNP.lib
r1  net-_q1-pad3_ net-_q2-pad1_ 12k
r2  net-_q2-pad2_ net-_q2-pad1_ 800
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
r3  net-_q1-pad3_ net-_q3-pad1_ 12k
q3 net-_q3-pad1_ net-_q2-pad1_ net-_q3-pad3_ Q2N2222
r4  net-_q3-pad3_ net-_q2-pad3_ 640
r5  net-_q3-pad1_ net-_c1-pad1_ 2.5k
c1  net-_c1-pad1_ net-_c1-pad2_ 0.1nf
q4 net-_c1-pad2_ net-_c1-pad1_ net-_q2-pad3_ Q2N2222
q5 net-_c1-pad2_ net-_c1-pad2_ net-_c2-pad1_ Q2N2907A
c2  net-_c2-pad1_ net-_c2-pad2_ 0.1nf
q6 net-_c2-pad1_ net-_c2-pad2_ net-_q6-pad3_ Q2N2222
r6  net-_q6-pad3_ net-_q2-pad3_ 1k
q7 net-_c2-pad1_ net-_q6-pad3_ net-_q7-pad3_ Q2N2222
r7  net-_q7-pad3_ net-_q2-pad3_ 3.3
q1 net-_c2-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q8 net-_c2-pad2_ net-_c1-pad2_ net-_c2-pad1_ Q2N2907A
* Control Statements

.ends LM431