* c:\users\aditya\esim-workspace\log_100\log_100.cir

.include LOG100.sub
v1 net-_x1-pad6_ gnd  dc 15
v2 net-_x1-pad9_ gnd  dc -15
* u4  out plot_db
* u3  out plot_v1
r1  net-_r1-pad1_ gnd 1000k
* u5  net-_r3-pad1_ i2 plot_i2
* u2  net-_r2-pad2_ i1 plot_i2
v3 i1b gnd  dc 1
v4 i2b gnd  dc 100m
r3  net-_r3-pad1_ i2b 10k
r2  i1b net-_r2-pad2_ 10k
x1 i1 net-_r1-pad1_ ? out ? net-_x1-pad6_ out ? net-_x1-pad9_ ? ? ? ? i2 LOG100
v_u5 net-_r3-pad1_ i2 0
v_u2 net-_r2-pad2_ i1 0
.tran 0.1e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot db(out)
plot v(out)
plot i(v_u5)
plot i(v_u2)
.endc
.end
