* C:\FOSSEE\eSim\library\SubcircuitLibrary\LP2954\LP2954.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 01/29/25 22:16:02

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
J1  Net-_J1-Pad1_ GND Net-_J1-Pad3_ jfet_n		
Q1  Net-_J1-Pad3_ Net-_J1-Pad3_ Net-_Q1-Pad3_ eSim_NPN		
Q2  Net-_Q2-Pad1_ Net-_J1-Pad3_ Net-_Q2-Pad3_ eSim_NPN		
R1  Net-_Q2-Pad3_ Net-_R1-Pad2_ 30k		
R3  Net-_Q8-Pad3_ Net-_R1-Pad2_ 50k		
Q3  GND Net-_Q3-Pad2_ Net-_Q3-Pad3_ eSim_PNP		
R2  Net-_Q5-Pad3_ Net-_Q8-Pad3_ 20k		
Q5  Net-_Q4-Pad1_ Net-_Q19-Pad3_ Net-_Q5-Pad3_ eSim_NPN		
Q4  Net-_Q4-Pad1_ Net-_Q4-Pad2_ Net-_Q15-Pad1_ eSim_PNP		
R4  Net-_Q4-Pad2_ Net-_Q3-Pad2_ 18k		
Q7  Net-_Q7-Pad1_ Net-_Q3-Pad2_ Net-_Q15-Pad1_ eSim_PNP		
C1  Net-_C1-Pad1_ GND 20p		
Q8  Net-_Q7-Pad1_ ? Net-_Q8-Pad3_ eSim_NPN		
R6  ? Net-_Q6-Pad3_ 180k		
Q6  Net-_Q11-Pad1_ Net-_Q17-Pad1_ Net-_Q6-Pad3_ eSim_PNP		
Q9  Net-_Q13-Pad1_ ? Net-_Q6-Pad3_ eSim_PNP		
R7  Net-_R10-Pad2_ Net-_Q11-Pad3_ 140k		
Q11  Net-_Q11-Pad1_ ? Net-_Q11-Pad3_ eSim_PNP		
Q13  Net-_Q13-Pad1_ ? Net-_Q11-Pad3_ eSim_PNP		
R5  Net-_R1-Pad2_ Net-_Q11-Pad1_ 50k		
R8  Net-_Q11-Pad1_ Net-_Q1-Pad3_ 13k		
Q10  GND Net-_C1-Pad1_ Net-_Q10-Pad3_ eSim_PNP		
Q12  Net-_Q10-Pad3_ ? Net-_J1-Pad1_ eSim_PNP		
Q14  Net-_Q14-Pad1_ ? Net-_J1-Pad1_ eSim_PNP		
Q15  Net-_Q15-Pad1_ ? Net-_J1-Pad1_ eSim_PNP		
Q16  Net-_Q16-Pad1_ Net-_Q10-Pad3_ Net-_Q16-Pad3_ eSim_NPN		
R9  Net-_Q16-Pad3_ Net-_Q19-Pad3_ 20.6k		
R10  Net-_Q19-Pad3_ Net-_R10-Pad2_ 31.4k		
R11  Net-_R10-Pad2_ Net-_Q17-Pad1_ 27.8k		
Q17  Net-_Q17-Pad1_ Net-_Q17-Pad1_ Net-_Q1-Pad3_ eSim_NPN		
Q18  GND Net-_Q14-Pad1_ Net-_Q15-Pad1_ eSim_PNP		
R12  Net-_Q19-Pad3_ Net-_Q17-Pad1_ 150k		
Q19  Net-_Q19-Pad1_ Net-_Q15-Pad1_ Net-_Q19-Pad3_ eSim_NPN		
Q20  GND Net-_Q20-Pad2_ Net-_Q20-Pad3_ eSim_PNP		
R13  Net-_Q37-Pad1_ Net-_Q22-Pad2_ 110k		
Q22  Net-_Q20-Pad2_ Net-_Q22-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
Q23  Net-_Q21-Pad3_ ? Net-_J1-Pad1_ eSim_PNP		
Q24  Net-_Q24-Pad1_ ? Net-_J1-Pad1_ eSim_PNP		
Q25  Net-_Q25-Pad1_ Net-_Q2-Pad1_ Net-_J1-Pad1_ eSim_PNP		
Q29  Net-_Q19-Pad1_ Net-_Q19-Pad1_ Net-_J1-Pad1_ eSim_PNP		
Q21  Net-_Q20-Pad2_ Net-_Q19-Pad3_ Net-_Q21-Pad3_ eSim_PNP		
Q26  Net-_C2-Pad1_ Net-_Q26-Pad2_ Net-_Q21-Pad3_ eSim_PNP		
R14  Net-_Q37-Pad1_ Net-_Q27-Pad2_ 100k		
R16  Net-_C2-Pad2_ Net-_Q27-Pad2_ 350k		
C2  Net-_C2-Pad1_ Net-_C2-Pad2_ 40p		
Q27  Net-_C2-Pad1_ Net-_Q27-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
Q30  GND Net-_C2-Pad1_ Net-_Q24-Pad1_ eSim_PNP		
Q33  Net-_Q19-Pad1_ Net-_Q24-Pad1_ Net-_Q33-Pad3_ eSim_NPN		
R17  Net-_Q33-Pad3_ Net-_Q34-Pad2_ 100k		
R18  Net-_Q34-Pad2_ Net-_Q32-Pad2_ 30k		
Q32  Net-_Q24-Pad1_ Net-_Q32-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
Q34  Net-_Q32-Pad2_ Net-_Q34-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
Q28  Net-_Q24-Pad1_ Net-_Q13-Pad1_ ? eSim_NPN		
R15  Net-_Q13-Pad1_ Net-_Q1-Pad3_ 150k		
R21  Net-_Q1-Pad3_ Net-_Q1-Pad3_ 4		
Q31  Net-_Q26-Pad2_ Net-_Q26-Pad2_ Net-_Q19-Pad3_ eSim_PNP		
R20  ? Net-_R20-Pad2_ 100k		
R19  Net-_J1-Pad1_ Net-_Q35-Pad3_ 100k		
Q35  Net-_Q25-Pad1_ Net-_Q25-Pad1_ Net-_Q35-Pad3_ eSim_PNP		
Q37  Net-_Q37-Pad1_ Net-_Q25-Pad1_ Net-_Q37-Pad3_ eSim_PNP		
Q38  Net-_Q38-Pad1_ Net-_Q25-Pad1_ Net-_J1-Pad1_ eSim_PNP		
R23  Net-_Q38-Pad1_ Net-_R20-Pad2_ 10k		
R24  Net-_R20-Pad2_ Net-_Q1-Pad3_ 30.7k		
Q36  Net-_Q25-Pad1_ Net-_Q33-Pad3_ Net-_Q36-Pad3_ eSim_NPN		
R22  Net-_Q36-Pad3_ Net-_Q1-Pad3_ 6		
U1  Net-_J1-Pad1_ Net-_Q1-Pad3_ Net-_Q37-Pad3_ PORT		
Q40  Net-_Q16-Pad1_ Net-_Q2-Pad1_ Net-_J1-Pad1_ eSim_PNP		
Q39  Net-_Q3-Pad3_ Net-_Q2-Pad1_ Net-_J1-Pad1_ eSim_PNP		
Q41  Net-_Q20-Pad3_ Net-_Q2-Pad1_ Net-_J1-Pad1_ eSim_PNP		

.end
