* c:\users\aditya\esim-workspace\logic_gates\logic_gates.cir

.include XOR.sub
.include NOT.sub
v1  a gnd pulse(0 1.8 0 1m 1m 5 10)
v2  b gnd pulse(1.8 0 0 1m 1m 10 20)
r1  outa gnd 1000k
x1 a outa NOT
x2 b outb NOT
r2  outb gnd 1000k
xu1 a b outc XOR
r3  outc gnd 1000k
.tran 0.01e-00 50e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
